US03975375
B. 3-Acetyl-imidazolidin-2-on-1-carbonyl chloride: ##SPC10##
20 parts by weight of N-acetyl-imidazolid-2-one mixed with 25 parts by weight of triethylamine and 150 parts by volume of dry benzene were first taken and 27 parts by weight of trimethylchlorosilane in 40 parts by volume of benzene were added dropwise at room temperature over the course of 30 minutes, with stirring. The mixture was subsequently boiled for 18 hours under reflux, moisture being excluded, and the triethylamine hydrochloride which precipitated (22 parts by weight = 100%) was filtered off after cooling and carefully rinsed with dry benzene. The benzene solution thus obtained was treated with a solution of 17 parts by weight of phosgene in 50 parts by volume of benzene at 5° C and left to stand overnight at 5° C. Thereafter the solvent was stripped off in vacuo and the residue was dried under an oil pump. It was recrystallized from acetone/pentane mixture.

reactant | N-acetyl-imidazolid-2-one | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Acetyl-imidazolidin-2-on-1-carbonyl chloride | C(C)(=O)N1C(N(CC1)C(=O)Cl)=O | C6H7ClN2O3
